US07199139B2
(S)-3-[4-[2-[[1-(4-Biphenylyl)ethylidene]aminoxy]ethoxy]phenyl]-2-(4-t-butylphenoxy)propionic acid
The reaction was carried out according to Reference example 7 using 2-trimethylsilylethyl (S)-3-[4-[2-[[1-(4-biphenylyl)ethylidene]aminoxy]ethoxy]phenyl]-2-(4-t-butylphenoxy)propionate (300 mg) obtained from Reference example 10 and a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran (1.20 ml). The resulting residue was purified by chromatography on a silica gel column (eluant; methylene chloride/methanol=24/1˜19/1), and then the obtained compound was filtered off and washed with isopropyl ether and hexane to afford the target compound (170 mg) as colorless crystals.

reactant | 2-trimethylsilylethyl (S)-3-[4-[2-[[1-(4-biphenylyl)ethylidene]aminoxy]ethoxy]phenyl]-2-(4-t-butylphenoxy)propionate | 300 mg | C1(=CC=C(C=C1)C(C)=NOCCOC1=CC=C(C=C1)C[C@@H](C(=O)OCC[Si](C)(C)C)OC1=CC=C(C=C1)C(C)(C)C)C1=CC=CC=C1 | C40H49NO5Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1.20 ml | O1CCCC1 | C4H8O
product | (S)-3-[4-[2-[[1-(4-Biphenylyl)ethylidene]aminoxy]ethoxy]phenyl]-2-(4-t-butylphenoxy)propionic acid | 170 mg | C1(=CC=C(C=C1)C(C)=NOCCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OC1=CC=C(C=C1)C(C)(C)C)C1=CC=CC=C1 | C35H37NO5
